US08703761B2
A. (S)-2-(4-Phenyl-pyrimidin-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
4-Phenyl-pyrimidin-2-ylamine (200 mg, 1 mmol), Boc-L-Pro-OH (327 mg, 1.3 mmol) and TFFH (Fluoro-N,N,N′-tetramethylformamidinium hexafluorophosphate; 463 mg, 1.3 mmol) were stirred as a solution in DCM (10 mL) containing triethyl amine (300 mL, 2 mmol). Purification by silica gel chromatography gave the title compound. m/z 369.1 (MH+).

reactant | 4-Phenyl-pyrimidin-2-ylamine | 1 mmol, 200 mg | C1(=CC=CC=C1)C1=NC(=NC=C1)N | C10H9N3
reactant | Boc-L-Pro-OH | 1.3 mmol, 327 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | TFFH | 1.3 mmol, 463 mg | CN(C)C(=[N+](C)C)F.F[P-](F)(F)(F)(F)F
reactant | triethyl amine | 2 mmol, 300 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-Phenyl-pyrimidin-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1=NC=CC(=N1)C1=CC=CC=C1)=O | C20H24N4O3
